US03934008
14. H-Leu-Gly-OEt.HCl
14 g of Z-Leu-Gly-OEt [manufactured according to J. R. Vaughan & R. L. Osato, J.Am.Chem.Soc. 73, 5553 (1951)] are dissolved in 150 ml of absolute ethanol, mixed with 11.5 ml of a 6.9 N hydrogen chloride solution in ethanol and hydrogenated in the presence of 2.8 g of palladium on charcoal (10 % Pd). After 1 hour the catalyst is filtered off and the filtrate evaporated in vacuo at 40°C bath temperature. The residue is an oil and is directly processed further. Rf1 = 0.50 (on silica gel).

reactant | Z-Leu-Gly-OEt | 14 g | N([C@@H](CC(C)C)C(=O)NCC(=O)OCC)C(=O)OCC1=CC=CC=C1 | C18H26N2O5
reactant | hydrogen chloride | 6.9 N | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 2.8 g | [Pd] | Pd
product | H-Leu-Gly-OEt.HCl | N[C@@H](CC(C)C)C(=O)NCC(=O)OCC.Cl | InChI=1S/C10H20N2O3.ClH/c1-4-15-9(13)6-12-10(14)8(11)5-7(2)3;/h7-8H,4-6,11H2,1-3H3,(H,12,14);1H/t8-;/m0./s1
